US04210753
21.6 g of 5,8-dihydroxy-3,4-dihydrocarbostyril and 19.9 g of potassium carbonate were added to a mixture comprising 480 ml of acetone and 120 ml of water, and the resulting mixture was stirred while refluxing for 30 minutes. 76 g of 2-methoxyethyl bromide was then added thereto followed by stirring while refluxing for 8 hours. The solvent was evaporated, and water was added to the residue. The mixture was extracted with diethyl ether. The aqueous layer was rendered acidic with hydrochloric acid and then extracted with chloroform. The chloroform layer was dried over anhydrous magnesium sulfate, and the chloroform evaporated to obtain 15 g of 5-hydroxy-8-(2-methoxyethoxy)-3,4-dihydrocarbostyril as a black oily substance.

reactant | 5,8-dihydroxy-3,4-dihydrocarbostyril | 21.6 g | OC1=C2CCC(NC2=C(C=C1)O)=O | C9H9NO3
reactant | potassium carbonate | 19.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 480 ml | CC(=O)C | C3H6O
reactant | 2-methoxyethyl bromide | 76 g | COCCBr | C3H7BrO
solvent | water | 120 ml | O | H2O
product | 5-hydroxy-8-(2-methoxyethoxy)-3,4-dihydrocarbostyril | 15 g | OC1=C2CCC(NC2=C(C=C1)OCCOC)=O | C12H15NO4
